US08034812B2
Production of N-{6-[3-({[(1,3-dimethyl-1H-pyrazol-5-yl)amino]carbonyl}amino)-4-methylphenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
To a solution of 1,3-dimethyl-1H-pyrazol-5-amine (104 mg, 0.93 mmol) in N,N-dimethylformamide (4.0 mL) was added N,N-carbonyldiimidazole (150 mg, 0.93 mmol), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol), and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethanol/ethyl acetate=1/20→1/10) to give the title compound (58 mg, 20%) as a white powder.

reactant | 1,3-dimethyl-1H-pyrazol-5-amine | 0.93 mmol, 104 mg | CN1N=C(C=C1N)C | C5H9N3
reactant | N,N-carbonyldiimidazole | 0.93 mmol, 150 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | N-{6-[3-({[(1,3-dimethyl-1H-pyrazol-5-yl)amino]carbonyl}amino)-4-methylphenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 58 mg, 20% | CN1N=C(C=C1NC(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C)C | C23H24N8O3
